US06448443B1
N-(3-Iodobenzyl)hydroxylamine.
3-Iodobenzaldehyde prepared above (8.1 g, 34.9 mmol) was dissolved in 50 mL MeOH and 20 mL THF. After addition of H2NOH.HCl (10 mL H2O) and 6N KOH, an additional 20 mL H2O, 10 mL THF, and 10 mL MeOH were added. The product was recovered as a white solid (7.96 g, 91.6%, 92% desired product). mp: 63.0-70.0° C. IR (film): 3256, 3056, 2857, 1591, 1564, 1470, 1420, 1063, 995, 777. 1H-NMR (400 MHz, CDCl3): δ 7.73 (t, 1H, J=1.6, C6-H), 7.63 (dt, 1H, J=7.9, 1.3, C5-H), 7.31 (d, 1H, J=7.6, C7-H), 7.09 (t, 1H, J=7.8, C6-H), 5.5 (br s, 1H, C1-NHOH), 5.1 (br s, 1H, C1-NHOH), 3.98 (s, 2H, C1-H2). 13C-NMR (100 MHz, CDCl3): δ 139.9,137.9, 136.6, 130.2, 128.2, 94.4, 57.4. EI-MS m/z (rel int): 249 (M+, 65), 217 ([M−NHOH]+, 100). CI-MS (NH3) m/z (rel int): 284 ([M+2NH3+H]+, 28), 267 ([M+NH4]+, 100), 250 ([M+H]+, 45).

reactant | 3-Iodobenzaldehyde | IC=1C=C(C=O)C=CC1 | C7H5IO
reactant | H2NOH.HCl | 10 mL | NO.Cl
reactant | KOH | 6N | [OH-].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | MeOH | 50 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(3-Iodobenzyl)hydroxylamine | IC=1C=C(CNO)C=CC1 | C7H8INO
